US08106090B2
[(1R,2S)-1-Benzyl-2-hydroxy-3-methylamino-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.50 g, 1.9 mmol) and methylamine (10 mL, 8 M solution in ethanol, mmol; used as solvent) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 1.9 mmol, 0.50 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | methylamine | 8 M, 10 mL | CN | CH5N
product | [(1R,2S)-1-Benzyl-2-hydroxy-3-methylamino-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CNC)O)CC1=CC=CC=C1)=O | C16H26N2O3
